US08309562B2
N4-(4-Methoxy-phenyl)-N2,N4-dimethyl-6,7-dihydro-5H-cyclopentapyrimidine-2,4-diamine
Crude (2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-yl)-(4-methoxyphenyl)-methylamine (100 mg, 0.32 mmol) was dissolved in isopropanol (10 mL) followed by the addition of ethyl-diisopropyl-amine (83 mg, 0.64 mmol) and alcoholic methylamine (excess, 800 μL). The mixture was stirred for 3 days at 110° C. The mixtures were evaporated and the residue was dissolved in CH2Cl2 and extracted with HCl (1 N). The organic layer was dried with MgSO4 and concentrated. The title compound was purified by preparative RPLC. 1H NMR (CDCl3) δ 7.18 (d, 2H), 6.95 (d, 2H), 3.85 (S, 3H), 3.50 (s, 3H), 3.03 (d, 3H), 2.79 (m, 2H), 1.80-1.70 (m, 4H); LC-MS (ESI+; 285 ([M+H]+)).

reactant | (2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-yl)-(4-methoxyphenyl)-methylamine | 0.32 mmol, 100 mg | ClC1=NC2=C(C(=N1)N(C)C1=CC=C(C=C1)OC)CCC2 | C15H16ClN3O
reactant | ethyl-diisopropyl-amine | 0.64 mmol, 83 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methylamine | 800 μL | CN | CH5N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | N4-(4-Methoxy-phenyl)-N2,N4-dimethyl-6,7-dihydro-5H-cyclopentapyrimidine-2,4-diamine | COC1=CC=C(C=C1)N(C1=NC(=NC2=C1CCC2)NC)C | C16H20N4O
